US07354920B2
a) 1-(4-Benzyl-morpholin-2-yl)-2-(5-fluoro-2-methoxy-phenyl)-1-phenyl-ethanol
Alternatively, the following method may be used. Magnesium turnings (21.6 g, 0.888 mole, 2 eq.) and diethyl ether (300 ml) were loaded in a reactor under N2. A solution of 5-fluoro-2-methoxybenzyl chloride (116 g, 0.664 mole, 1.5 eq.) in diethyl ether (200 ml) was loaded in an addition funnel. Iodine crystals and a small amount of the 5-fluoro-2-methoxybenzyl chloride solution were added and the reaction mixture was stirred to initiate the reaction. The remainder of the 5-fluoro-2 methoxybenzyl chloride solution was then added drop-wise maintaining the temperature of the reaction mixture below 28° C. The mixture was stirred for another 5 minutes at 19° C. after completion of the addition and a white suspension was formed. A solution of (4-Benzyl-morpholin-2-yl)-phenyl-methanone (125 g, 0.444 mole) in diethyl ether (1.8 L) was added drop-wise, maintaining the temperature of the reaction mixture below 25° C. The suspension obtained was stirred for 2 hours. The reaction mixture was quenched through the addition of a saturated aqueous NaHCO3 solution (625 ml) and water (500 ml), maintaining the temperature below 20° C. The mixture was stirred for 30 minutes and the solids were filtered, washed with water (125 ml) and diethyl ether (200 ml). The filtrates were loaded into a separation funnel and the layers were separated. The aqueous layer was extracted with diethyl ether (1 L). The organic layers were combined and dried over MgSO4, filtered and the filter cake was washed with diethyl ether (100 ml). The filtrates were concentrated under vacuum. The yield of title compound was 201 g as a yellow solid (107%). Title compound (200 g, 0.474 mole) was then suspended in isopropanol (400 ml) under N2. The suspension was heated under reflux until all solids were dissolved. The solution is allowed to cool to 20° C. over 4 hours under stirring. The solid is filtered, washed with isopropanol (100 ml) and dried at 40° C. under vacuum. The yield of pure title compound is 158 g (79%). 1H-NMR (CDCl3): 6.99-7.26 ppm, 10H, mp; 6.60-6.71 ppm, 1H, dt; 6.49-6.60 ppm, 1H, dd; 6.31-6.44 ppm, 1H, dd; 3.92-4.01 ppm, 1H, dt; 3.80-3.90 ppm, 1H, dd; 3.64-3.73 ppm, 1H, dd; 3.59-3.64 ppm, 1H, d; 3.52-3.59 ppm, 3+1 H, 2s; 3.37-3.45 ppm, 1H, d; 3.07-3.17 ppm, 1H, d; 2.84-2.92 ppm, 1H, d; 2.43-2.53 ppm, 1H, d; 2.20-2.28 ppm, 1H, d; 1.98-2.11 ppm, 2H, mp.

reactant | Magnesium | 0.888 mole, 21.6 g, 2 eq. | [Mg] | Mg
reactant | 5-fluoro-2-methoxybenzyl chloride | 0.664 mole, 116 g, 1.5 eq. | FC=1C=CC(=C(CCl)C1)OC | C8H8ClFO
reactant | Iodine crystals | II | I2
reactant | (4-Benzyl-morpholin-2-yl)-phenyl-methanone | 0.444 mole, 125 g | C(C1=CC=CC=C1)N1CC(OCC1)C(=O)C1=CC=CC=C1 | C18H19NO2
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 1.8 L | C(C)OCC | C4H10O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 1-(4-Benzyl-morpholin-2-yl)-2-(5-fluoro-2-methoxy-phenyl)-1-phenyl-ethanol | 0.474 mole, 200 g | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC(=C1)F)OC)(O)C1=CC=CC=C1 | C26H28FNO3
